US09108939B2
B: 2-(3-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
N-Bromosuccinimide (207 mg, 1.162 mmol) was added to a solution of 1,1,1,3,3,3-hexafluoro-2-m-tolylpropan-2-ol (300 mg, 1.162 mmol) and 2,2′-azobis(isobutyronitrile) (0.191 mg, 1.162 μmol) in carbon tetrachloride (6 mL). The mixture was refluxed for 18 hours and then concentrated under reduced pressure. The crude material was dissolved in diethyl ether and heptane, filtered through dicalite, and purified by silica chromatography (eluting with a solvent gradient from 2% ethyl acetate/98% heptane to 10% ethyl acetate/90% heptane) to afford the title compound (84 mg).

reactant | N-Bromosuccinimide | 1.162 mmol, 207 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,1,1,3,3,3-hexafluoro-2-m-tolylpropan-2-ol | 1.162 mmol, 300 mg | FC(C(C(F)(F)F)(O)C=1C=C(C=CC1)C)(F)F | C10H8F6O
solvent | carbon tetrachloride | 6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobis(isobutyronitrile) | 1.162 μmol, 0.191 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-(3-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 84 mg | BrCC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
